US06417192B1
A mixture of 5-bromopyrimidine (5.93 g), ethyl acrylate (5.08 g), palladium acetate (0.112 g), triphenyl phosphine (0.23 g) and triethylamine (4.5 g) was stirred at 150° C. in a pressure vessel for 6 hours. After cooling overnight, water (50 ml) was added to the dark residue, and the product was extracted into toluene. Drying, charcoaling and evaporation gave a pale oil, which was triturated with pet, ether to obtain ethyl 3-(5-pyrimidyl)acrylate (4.78 g). 1H-NMR (CDCl3) δ 1.36 (3H, t), 4.27 (2H, q), 6.59 (1H, d), 7.62 (1H, d), 8.88 (2H, s), 9.20 (1H, s).

reactant | 5-bromopyrimidine | 5.93 g | BrC=1C=NC=NC1 | C4H3BrN2
reactant | ethyl acrylate | 5.08 g | C(C=C)(=O)OCC | C5H8O2
reactant | triethylamine | 4.5 g | C(C)N(CC)CC | C6H15N
catalyst | palladium acetate | 0.112 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | triphenyl phosphine | 0.23 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | water | 50 ml | O | H2O
product | ethyl 3-(5-pyrimidyl)acrylate | 4.78 g | N1=CN=CC(=C1)C=CC(=O)OCC | C9H10N2O2
